US07579363B2
(2-Oxo-1,2,3,4-tetrahydro-quinolin-3-yl)-acetic acid (2.73 mmol), EDCl (3.27 mmol) and DIEA (3.27 mmol) are dissolved in 10 mL MeOH. About 2 mL of CH2Cl2 is also added to help dissolving the solid. The reaction mixture is stirred at room temperature for 2 hours before removal of the solvent under reduced pressure. The residue is purified by silica gel chromatography (hexane/EtOAc) to give (2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl)-acetic acid methyl ester as a white solid. Yield: 60%. 1H NMR (400 MHz, CDCl3): δ 7.88 (br, 1H), 7.18 (m, 2H), 7.00 (td, 1H), 6.75 (d, 1H), 3.73 (s, 3H), 3.13-2.98 (m, 3H), 2.89 (m, 1H), 2.51 (dd, 1H). MS: (ES+): 220.2 [M+1].

reactant | (2-Oxo-1,2,3,4-tetrahydro-quinolin-3-yl)-acetic acid | 2.73 mmol | O=C1NC2=CC=CC=C2CC1CC(=O)O | C11H11NO3
reactant | EDCl | 3.27 mmol | CCN=C=NCCCN(C)C.Cl
reactant | DIEA | 3.27 mmol | CCN(C(C)C)C(C)C | C8H19N
reactant | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 10 mL | CO | CH4O
product | (2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl)-acetic acid methyl ester | Yield: 60% | COC(CC1C(NC2=CC=CC=C2C1)=O)=O | C12H13NO3
